US07902239B2
N3-(4-Morpholin-4-yl-phenyl)-1-(6-piperazin-1-yl-pyrimidin-4-yl)-1H-[1,2,4]triazole-3,5-diamine:
A mixture of 1-(6-chloro-pyrimidin-4-yl)-N3-(4-morpholin-4-yl-phenyl)-1H-[1,2,4]triazole-3,5-diamine (0.11 g, 0.30 mmol), piperazine ((0.26 g, 3.0 mmol), and di-iso-propylethylamine (0.21 mL) in THF (100 mL) was stirred at reflux for 3 d, then cooled and evaporated. Purification by semi-preparative HPLC provided the title compound (0.13 g, 64% yield) as a pale yellow solid.

reactant | 1-(6-chloro-pyrimidin-4-yl)-N3-(4-morpholin-4-yl-phenyl)-1H-[1,2,4]triazole-3,5-diamine | 0.30 mmol, 0.11 g | ClC1=CC(=NC=N1)N1N=C(N=C1N)NC1=CC=C(C=C1)N1CCOCC1 | C16H17ClN8O
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | di-iso-propylethylamine | 0.21 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N3-(4-Morpholin-4-yl-phenyl)-1-(6-piperazin-1-yl-pyrimidin-4-yl)-1H-[1,2,4]triazole-3,5-diamine | 0.13 g, 64% yield | N1(CCOCC1)C1=CC=C(C=C1)NC1=NN(C(=N1)N)C1=NC=NC(=C1)N1CCNCC1 | C20H26N10O
